US08486967B2
b) Ethyl 3-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate
To a suspension of 8-(3-(aminomethyl)phenyl)-6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine dihydrochloride (37 mg, 73.8 μmol) in dichloromethane (0.75 mL) was added N,N-diisopropylethylamine (38.1 mg, 51.5 μL, 295 mmol). To the resulting yellow solution was added ethyl chloroformate (8.99 mg, 7.89 μL, 81.2 mmol) and the reaction was stirred at room temperature over night. The title compound was obtained as a light yellow solid (35 mg, 95%) after column chromatography on silica gel using a gradient from methylene chloride to a mixture of methylene chloride/methanol 19:1 (v/v) as eluent. MS ISP (m/e): 501.2 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): (ppm)=8.51 (s, 1H), 8.13 (s, 1H), 7.83 (br s, 2H), 7.44 (t, 1H), 7.36 (s, 1H), 7.33 (d, 1H), 6.41 (s, 1H), 5.08 (br m, 1H), 4.53 (br d, 1H), 4.44 (d, 2H), 4.32 (br d, 2H), 4.15 (q, 2H), 3.96 (m, 1H), 3.69 (m, 1H), 3.20 (t, 2H), 3.10 (m, 1H), 2.40 (s, 3H), 2.38 (s, 3H), 2.22 (br d, 2H), 1.25 (t, 3H).

reactant | 8-(3-(aminomethyl)phenyl)-6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine dihydrochloride | 73.8 μmol, 37 mg | Cl.Cl.NCC=1C=C(C=CC1)C=1C=2N(C=C(C1)C)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C
reactant | N,N-diisopropylethylamine | 295 mmol, 51.5 μL, 38.1 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl chloroformate | 81.2 mmol, 7.89 μL, 8.99 mg | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 0.75 mL | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(6-methyl-2-(1-(6-methylpyrimidin-4-yl)piperidin-4-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl)benzylcarbamate | CC=1C=C(C=2N(C1)N=C(N2)NC2CCN(CC2)C2=NC=NC(=C2)C)C=2C=C(CNC(OCC)=O)C=CC2 | C27H32N8O2
